US04133885
1(2-Benzylmethylaminoethyl)-5,7-dimethyl-1,8-naphthyridin-2(1H)-one hydrochloride (8.56 g., 0.024 mole) is dissolved in 80 ml. of ethanol, 5% palladium on carbon (0.8 g.) catalyst is added and the mixture is hydrogenated at a pressure of 45 lbs. per sq. inch until hydrogen is no longer taken up. The mixture is filtered concentrated under reduced pressure and the residue recrystallized from isopropanol. 1-(2-Methylaminoethyl)-5,7-dimethyl-1,8-naphthyridin-2(1H)-one hydrochloride having a melting point of 106-109° C. is obtained.

reactant | 1(2-Benzylmethylaminoethyl)-5,7-dimethyl-1,8-naphthyridin-2(1H)-one hydrochloride | 0.024 mole, 8.56 g | Cl.C(C1=CC=CC=C1)CNCCN1C(C=CC2=C(C=C(N=C12)C)C)=O
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 1-(2-Methylaminoethyl)-5,7-dimethyl-1,8-naphthyridin-2(1H)-one hydrochloride | Cl.CNCCN1C(C=CC2=C(C=C(N=C12)C)C)=O | InChI=1S/C13H17N3O.ClH/c1-9-8-10(2)15-13-11(9)4-5-12(17)16(13)7-6-14-3;/h4-5,8,14H,6-7H2,1-3H3;1H
